US05057534
Methyl 3-chloro-3-(4-chlorobenzoyl)propionate
A solution of 179 g (0.79 mole) of methyl-3-(4-chlorobenzoyl)propionate in 175 mL of dichloromethane was cooled to 0° and treated dropwise with 69.8 mL (117.3 g; 0.86 mole, d=1.68) of sulfuryl chloride. After the addition was complete, the cold bath was removed, and the reaction mixture was allowed to warm to room temperature while stirring overnight. The mixture was treated with 100 mL of water and basified cautiously with 50% sodium hydroxide. The layers were separated, the dichloromethane layer dried over magnesium sulfate and evaporated under reduced pressure (245.3 g). The residue was purified by vacuum distillation (135° C./0.3 mm) to obtain three fractions for a total of 198.6 g (96%).

reactant | methyl-3-(4-chlorobenzoyl)propionate | 0.79 mole, 179 g | COC(CCC(C1=CC=C(C=C1)Cl)=O)=O | C11H11ClO3
reactant | sulfuryl chloride | 0.86 mole, 69.8 mL, 117.3 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dichloromethane | 175 mL | ClCCl | CH2Cl2
product | Methyl 3-chloro-3-(4-chlorobenzoyl)propionate | ClC(CC(=O)OC)C(C1=CC=C(C=C1)Cl)=O | C11H10Cl2O3
